US07494992B2
Preparation 85: 2-Methyl-7-(phenylmethyl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidin-4(4aH)-one
Sodium metal (4.4 g, 0.19 mol) was dissolved in ethanol (300 ml) and acetamidine hydrochloride (9.3 g, 0.1 mol) was added. After 30 min, commercially available ethyl 3-oxo-1-(phenylmethyl)-piperidine-4-carboxylate hydrochloride (25 g, 0.084 mol) was added and the reaction mixture was refluxed for 18 h. The reaction mixture was filtered and the concentrated in vacuo to give the title compound (20 g).

reactant | Sodium | 0.19 mol, 4.4 g | [Na] | Na
reactant | acetamidine hydrochloride | 0.1 mol, 9.3 g | Cl.C(C)(=N)N
reactant | ethyl 3-oxo-1-(phenylmethyl)-piperidine-4-carboxylate hydrochloride | 0.084 mol, 25 g | Cl.O=C1CN(CCC1C(=O)OCC)CC1=CC=CC=C1
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | 2-Methyl-7-(phenylmethyl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidin-4(4aH)-one | 20 g | CC1=NC(C2C(=N1)CN(CC2)CC2=CC=CC=C2)=O | C15H17N3O
